US06734181B2
3-Acetoxymethyl-7-(4-fluorobenzyloxy)-2-methyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]-pyridazine
To a solution of 7-(4-fluorobenzyloxy)-2,3-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine (0.679 g, 2.00 mmol) in acetic acid (40 ml) was added ammonium cerium (IV) nitrate (6.58 g, 12.0 mmol) at room temperature. The mixture was stirred at 60° C. for 3 hours, poured into water and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a silica gel column using hexane/ethyl acetate=1/1 as the eluant to afford an oil which was crystallized in hexane to give the title compound (0.255 g, 28%) as pale yellow crystals.

reactant | 7-(4-fluorobenzyloxy)-2,3-dimethyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]pyridazine | 2.00 mmol, 0.679 g | FC1=CC=C(COC=2N=NC=C3C2N(C(=C3C)C)C[C@@H]3[C@H](C3)C)C=C1 | C20H22FN3O
reactant | ammonium cerium (IV) nitrate | 12.0 mmol, 6.58 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | water | O | H2O
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 3-Acetoxymethyl-7-(4-fluorobenzyloxy)-2-methyl-1-[(1S,2S)-2-methylcyclopropylmethyl]pyrrolo[2,3-d]-pyridazine | 0.255 g, 28% | C(C)(=O)OCC1=C(N(C2=C(N=NC=C21)OCC2=CC=C(C=C2)F)C[C@@H]2[C@H](C2)C)C | C22H24FN3O3
